US04827004
10.58 g of (6E)-10-(tert.-butyldimethylsiloxy)-3,7,11-trimethyl-2,6,11-dodecatrien-1-ol are added dropwise at 0° to a suspension of 110 g of manganese dioxide (precipitated, active) in 220 ml of dichloromethane and the mixture is stirred at room temperature for 2 hours. After filtration over Hyflo the filtrate is concentrated and oily residue is chromatographed on silica gel with hexane-ethyl acetate-triethylamine 90:10:0.1. There is obtained (6E)-10-(tert.-butyldimethylsiloxy)-3,7,11-trimethyl-2,6,11-dodecatrienal as a yellowish oil. NMR (80 MHz, CDCl3): 10.1 (d, J=8, H-C(1)); 6.0 (d, J=8, H-C(2)); 5.2 (m, H-C(6)); 5.0-4.8 (m, 2H-C(12)); 4.1 (t, J=6.5, H-C(10)); 2.4-1.4 (m, 4CH2, 3CH3); 0.95 (s, SiC(CH3)3); 0.1 and 0.05 (2s, Si(CH3)2).

reactant | (6E)-10-(tert.-butyldimethylsiloxy)-3,7,11-trimethyl-2,6,11-dodecatrien-1-ol | 10.58 g | C(C)(C)(C)[Si](OC(CC/C(=C/CCC(=CCO)C)/C)C(=C)C)(C)C | C21H40O2Si
solvent | dichloromethane | 220 ml | ClCCl | CH2Cl2
catalyst | manganese dioxide | 110 g | [O-2].[O-2].[Mn+4]
product | (6E)-10-(tert.-butyldimethylsiloxy)-3,7,11-trimethyl-2,6,11-dodecatrienal | C(C)(C)(C)[Si](OC(CC/C(=C/CCC(=CC=O)C)/C)C(=C)C)(C)C | C21H38O2Si
